* Schematics Netlist *



D_D1         $N_0001 $N_0002 D1N4148 
R_R1         $N_0002 0  1k  
V_V1         $N_0003 0  
+SIN 0 20 100 0 0 0
V_V2         $N_0001 $N_0003 5V
R_R2         $N_0004 0  1k  
V_V3         $N_0005 0  
+SIN 0 20 100 0 0 0
D_D2         $N_0004 $N_0006 D1N4148 
V_V4         $N_0006 $N_0005 5V
