* Schematics Netlist *



R_R1         $N_0002 $N_0001  1k  
D_D1         $N_0003 $N_0001 D1N4148 
V_V1         $N_0002 0  
+SIN 0 16 100 0 0 0
V_V2         $N_0003 0 -4V
