* Schematics Netlist *



R_R1         $N_0002 $N_0001  1k  
R_R2         $N_0003 $N_0001  1k  
R_R4         $N_0001 $N_0004  2k  
E_U1         $N_0004 0 VALUE {LIMIT(V($N_0001,0)*1E6,-15V,+15V)}
V_V1         $N_0002 0 2V
V_V2         $N_0003 0  
+SIN 0 5 1000 0 0 0
R_R3         $N_0004 0  1k  
