* Schematics Netlist *



D_D1         $N_0001 $N_0002 D1N4148 
R_R1         $N_0002 0  1k  
V_V1         $N_0001 0  
+SIN 0 5 500 0 0 0
C_C1         $N_0002 0  4.7u  
