* Schematics Netlist *



R_R1         $N_0002 $N_0001  1k  
E_U1         $N_0003 0 VALUE {LIMIT(V(0,$N_0001)*1E6,-15V,+15V)}
V_V1         $N_0002 0 DC 0 
+PULSE 1 -1 0 1n 1n 628.314us 1.256628ms
C_C1         $N_0001 $N_0003  0.1u IC=0 
R_R5         $N_0001 $N_0003  999999999999999M  
