* Schematics Netlist *



R_R1         $N_0001 0  1k  
C_C1         $N_0001 0  10uF  
D_D1         $N_0002 $N_0001 D1N4148 
V_V1         $N_0002 0  
+SIN 0 5 500 0 0 0
