* Schematics Netlist *



V_V2         $N_0001 0 4V
V_V4         $N_0002 0 DC 0 
+SIN 0 16 1000 0 0 0
R_R1         $N_0003 $N_0001  1k  
D_D1         $N_0002 $N_0003 D1N4148 
