* Schematics Netlist *



R_R4         $N_0002 $N_0001  1k  
R_R2         $N_0003 $N_0002  1k  
R_R3         $N_0004 $N_0002  1k  
R_R1         $N_0005 $N_0002  1k  
E_U1         $N_0001 0 VALUE {LIMIT(V(0,$N_0002)*1E6,-15V,+15V)}
R_R5         $N_0001 0  1k  
V_V1         $N_0005 0 1V
V_V2         $N_0003 0 2V
V_V3         $N_0004 0 3V
