* Schematics Netlist *



R_R1         $N_0002 $N_0001  1k  
D_D1         $N_0001 $N_0003 D1N4148 
V_V2         0 $N_0003 2V
V_V1         $N_0002 0  
+SIN 0 6 50 0 0 0
